US04536209
(i) Production of ethyl α-(2-chloro-5-nitrophenoxy)propionate
A mixture of 17.4 g. of 2-chloro-5-nitrophenol, 19.0 g. of ethyl α-bromopropionate, 15.2 g. of potassium carbonate and 85 ml. of acetone was refluxed with stirring for 3.5 hours and the solvent was distilled off. 2N-HCl was added to the residue to obtain a crude crystal. The product was separated by a filtration and washed with water and dried and recrystallized from n-hexane to obtain 27.4 g. of the object compound (melting point of 46° to 46.5° C.).

reactant | 2-chloro-5-nitrophenol | ClC1=C(C=C(C=C1)[N+](=O)[O-])O | C6H4ClNO3
reactant | ethyl α-bromopropionate | BrC(C(=O)OCC)C | C5H9BrO2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | CC(=O)C | C3H6O
product | ethyl α-(2-chloro-5-nitrophenoxy)propionate | ClC1=C(OC(C(=O)OCC)C)C=C(C=C1)[N+](=O)[O-] | C11H12ClNO5
